US07728020B2
Preparation of (R)-4-[2-(4-Heptyloxy-phenyl)-ethyl]-4-methyl-2-oxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester
A stirred solution of thionyl chloride (0.14 ml, 1.91 mMol) in acetonitril (10 ml) is cooled to −40° C. At this temperature, a solution of [(R)-3-(4-heptyloxy-phenyl)-1-hydroxymethyl-1-methyl-propyl]-carbamic acid tert-butyl ester (300 mg, 0.76 mMol) in acetonitril (5 ml), and pyridine (0.31 ml, 3.81 mMol) are added successively. The mixture is allowed to warm to −10° C. over 2.5 hours. The reaction mixture is then poured onto a biphasic mixture of AcOEt and HCl (aqueous, 1 M). The aqueous phase is extracted twice with AcOEt. The combined organic layers are washed with NaHCO3 (saturated aqueous solution), dried (Na2SO4) and concentrated under reduced pressure. Column chromatography eluting with 5%→15% AcOEt in heptane gives the title compounds as colourless oils (2 diastereomers, dr=1:1).

reactant | thionyl chloride | 1.91 mMol, 0.14 ml | S(=O)(Cl)Cl | Cl2OS
reactant | [(R)-3-(4-heptyloxy-phenyl)-1-hydroxymethyl-1-methyl-propyl]-carbamic acid tert-butyl ester | 0.76 mMol, 300 mg | C(C)(C)(C)OC(N[C@@](CCC1=CC=C(C=C1)OCCCCCCC)(C)CO)=O | C23H39NO4
reactant | pyridine | 3.81 mMol, 0.31 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 M | Cl | ClH
solvent | acetonitril | 10 ml | C(C)#N | C2H3N
solvent | acetonitril | 5 ml | C(C)#N | C2H3N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (R)-4-[2-(4-Heptyloxy-phenyl)-ethyl]-4-methyl-2-oxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[S@@](OCC1(C)CCC1=CC=C(C=C1)OCCCCCCC)=O | C23H37NO5S
